US06906065B2
4-[N-(3-imidazol-1-ylpropyl)carbamoyl]nitrobenzene
A solution of 1-(3-aminopropyl)imidazole (3.87 ml, 33 mmol) in ethanol (65 ml) was added to 4-nitrobenzoyl chloride (4.0 g, 22 mmol) and the mixture stirred at ambient temperature for 24 hours. The volatiles were removed by evaporation and the residue was dissolved in ethyl acetate, washed with water and dried. The solvent was removed by evaporation, the residue was triturated with hexane and the product collected by filtration to give the title compound (3.2 g, 55%). NMR: 1.98 (t, 2H), 3.24 (q, 2H), 4.01 (t, 2H), 6.87 (s, 1H), 7.19 (s, 1H), 7.64 (s, 2H), 8.15 (d, 2H), 8.30 (d, 2H); 8.80 (t, 1H); m/z 275 (MH)+.

reactant | 1-(3-aminopropyl)imidazole | 33 mmol, 3.87 ml | NCCCN1C=NC=C1 | C6H11N3
reactant | 4-nitrobenzoyl chloride | 22 mmol, 4.0 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | 4-[N-(3-imidazol-1-ylpropyl)carbamoyl]nitrobenzene | 3.2 g, 55% | N1(C=NC=C1)CCCNC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H14N4O3
